US06323235B1
Methyl (3-(2-hydroxyethyl)benzofuran-7-yloxy)acetate
7-hydroxy-3-(2-hydroxyethyl)benzofuran (1.09 g), methyl bromoacetate (0.86 ml) and potassium carbonate (930 mg) were added to DMF (50 ml) and the mixture was stirred at room temperature for 18 hours. After filtering the reaction solution, the filtrate was concentrated and added to water layer (150 ml), followed by extracting the resultant twice with ethyl acetate (20 ml). After combining the organic layers, the resultant was washed with saturated brine and dried over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=1/1) using silica gel to obtain the desired compound (1.48 g, yield: 97%).

reactant | 7-hydroxy-3-(2-hydroxyethyl)benzofuran | 1.09 g | OC1=CC=CC=2C(=COC21)CCO | C10H10O3
reactant | methyl bromoacetate | 0.86 ml | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 930 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Methyl (3-(2-hydroxyethyl)benzofuran-7-yloxy)acetate | 1.48 g, yield: 97% | OCCC1=COC2=C1C=CC=C2OCC(=O)OC | C13H14O5
